US04138581
When 2-hexylcyclopropanecarbonyl chloride is substituted for the cyclohexanecarbonyl chloride in the procedure described in Example 15A above, the acylation product obtained is 3,4-bis(2-hexylcyclopropanecarbonyloxy)phenyl tert-butylaminomethyl ketone; and when this product is catalytically hydrogenated using the procedure described in Example 15B above, there is obtained 3,4-bis(2-hexylcyclopropanecarbonyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol.

reactant | 2-hexylcyclopropanecarbonyl chloride | C(CCCCC)C1C(C1)C(=O)Cl | C10H17ClO
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 3,4-bis(2-hexylcyclopropanecarbonyloxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(=O)C1C(C1)CCCCCC)OC(=O)C1C(C1)CCCCCC | C32H49NO5
product | 3,4-bis(2-hexylcyclopropanecarbonyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol | C(CCCCC)C1C(C1)C(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(=O)C1C(C1)CCCCCC | C32H51NO5
